US05780437
N-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}benzamide
To a solution of 2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethylamine (3.0 g in 80 mL dry methylene chloride) at 0° C. was added 4.0 mL triethylamine followed by 1.4 mL benzoyl chloride and the mixture stirred at low temperature. After 20 minutes, the reaction was quenched by the addition of saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic portion was washed with water and concentrated in vacuo to give the crude title compound (1.43 g).

reactant | 2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethylamine | 80 mL, 3.0 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCN)[N+](=O)[O-] | C18H19N3O2
reactant | benzoyl chloride | 1.4 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
product | N-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}benzamide | 1.43 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNC(C1=CC=CC=C1)=O)[N+](=O)[O-] | C25H23N3O3
